* Historical exploratory circuit; not the revision B release netlist.
* Use sim/eqprop/spice_full.py and the revision B KiCad hierarchy.
* sim1_activation.cir -- Activation Function Visualization
* =========================================================
* Single weight path with antiparallel Schottky diode clamp.
* DC sweep of input voltage shows the diode clamping curve,
* which IS the hidden neuron's activation function.
*
* HOW TO RUN IN LTSPICE (Mac):
*   1. File -> Open -> select this file
*   2. Simulate -> Run (or click the running-man icon)
*   3. A blank plot window appears
*   4. Right-click (Ctrl+click on Mac) in the plot -> Add Trace
*   5. Type V(h1) in the expression box, click OK
*   6. Right-click again -> Add Trace -> type V(x1)
*      (this adds the raw input sweep for comparison)
*
* WHAT YOU SHOULD SEE:
*   V(x1) is a straight diagonal line from 0V to 5V (the sweep).
*   V(h1) is an S-shaped curve centered at 2.5V:
*     - Flat near ~2.2V for low inputs (lower diode clamping)
*     - Rises through 2.5V in the middle (linear region)
*     - Flat near ~2.7V for high inputs (upper diode clamping)
*   The ~0.6V linear region between the clamp points is what
*   gives the network its nonlinearity -- essential for XOR.
*
* CIRCUIT:
*   V_X1 (swept) --> 1.21k --> 20k --> node H1 --> diode pair --> 2.5V
*
* =========================================================

* --- BAT42 Schottky Diode Model ---
* Source: Vishay BAT42 datasheet parameters
.model BAT42 D(Is=1e-7 Rs=12 N=1.1 Cjo=15p Vj=0.25 M=0.5)

* --- Input Voltage (will be swept by .dc command) ---
V_X1 x1 0 0

* --- Diode reference rail (V_MID = 2.5V) ---
V_MID vmid 0 2.5

* --- Weight path: X1 -> H1 ---
* 1.21k series protection resistor + 20k weight (mid-range pot tap)
R_series x1 mid1 1.21k
R_weight mid1 h1 20k

* --- Antiparallel Schottky diode pair (activation function) ---
* D1a: anode=H1, cathode=VMID  (conducts when H1 > VMID + ~0.3V)
* D1b: anode=VMID, cathode=H1  (conducts when H1 < VMID - ~0.3V)
D1a h1 vmid BAT42
D1b vmid h1 BAT42

* --- DC Sweep Analysis ---
* Sweeps V_X1 from 0V to 5V in 10mV steps (501 data points)
.dc V_X1 0 5 0.01

.end
